US06534492B2
Preparation of 2-Chloro-4-fluoro-5-nitrobenzoic Acid
A solution of 2-chloro-4-fluorobenzoic acid (24.4 g, 0.142 mol) in 150 ml of concentrated sulfuric acid at 0° C. was treated dropwise with 90% nitric acid (13.2 ml, 20 mol %, 0.284 mol) over a 10 min. period at 10° C., stirred for 2.5 hours at 0 to 10° C., poured onto one liter of ice. The white solid was filtered. The filtercake was air-dried and recrystallized from ethyl acetate/heptane to afford the title compound as off-white needles. Yield: 18.0 g (58.1%); identified by NMR spectral analysis.

reactant | 2-chloro-4-fluorobenzoic acid | 0.142 mol, 24.4 g | ClC1=C(C(=O)O)C=CC(=C1)F | C7H4ClFO2
reactant | nitric acid | 0.284 mol, 13.2 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Chloro-4-fluoro-5-nitrobenzoic Acid | ClC1=C(C(=O)O)C=C(C(=C1)F)[N+](=O)[O-] | C7H3ClFNO4
